US06323235B1
4-methoxyindole
Potassium hydroxide (2.12 g) was added to 4-hydroxyindole (4.99 g) in DMF (100 ml) and the mixture was stirred at room temperature for 30 minutes. Methyl iodide (2.80 ml) was added to the mixture and the resultant was stirred at room temperature for 150 minutes. Since the reaction had not been completed, potassium hydroxide (0.64 g) was added and the mixture was stirred at room temperature for 5 hours. The solvent was removed under reduced pressure and water (20 ml) was added to the residue, followed by extraction with ether (3×30 ml). The organic layers were washed with saturated brine, and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure and the obtained crude product was purified by silica gel column chromatography to obtain the desired product (3.38 g, yield: 61%).

reactant | Potassium hydroxide | 2.12 g | [OH-].[K+]
reactant | 4-hydroxyindole | 4.99 g | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | Methyl iodide | 2.80 ml | CI | CH3I
reactant | potassium hydroxide | 0.64 g | [OH-].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-methoxyindole | 3.38 g, yield: 61% | COC1=C2C=CNC2=CC=C1 | C9H9NO
